US03959260
3α-Hydroxy-21-morpholinoethoxythiocarbonylthio-5α-pregnane-11,20 -dione
A mixture of morpholinoethanol (3.3 g., 2.5 mmole), dry toluene (50 ml.) and sodium (0.6 g.) was refluxed under nitrogen for 6 hr. and then left at room temperature for two days. The unreacted sodium was then removed and carbon disulphide (4 ml., 5.3 mmole) was added cautiously and the resulting mixture was allowed to stand at room temperature for 2 hr. The precipitated solid was collected rapidly by filtration and added immediately to a solution of 21-bromo-3α-hydroxy-5α-pregnane-11,20-dione (1.0 g., 2.3 mmole) in acetone. The resulting suspension was refluxed for 15 min. and then partitioned between water and ether. The organic layer was washed with water, dried (Na2SO4) and evaporated. The residue (900 mg.) was purified by preparative t.l.c. (EtOAc/petrol 1:1) to give title compound (0.35 g.) as a white foam, [α]D + 77° (c 1.2).

reactant | morpholinoethanol | 2.5 mmole, 3.3 g | O1CCN(CC1)C(C)O | C6H13NO2
reactant | sodium | 0.6 g | [Na] | Na
reactant | carbon disulphide | 5.3 mmole, 4 ml | C(=S)=S | CS2
reactant | 21-bromo-3α-hydroxy-5α-pregnane-11,20-dione | 2.3 mmole, 1.0 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H31BrO3
reactant | acetone | CC(=O)C | C3H6O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3α-Hydroxy-21-morpholinoethoxythiocarbonylthio-5α-pregnane-11,20 -dione | 0.35 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CSC(=S)OCCN5CCOCC5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C28H43NO5S2
